US05470998
It also is known to heat a stoichiometric excess of p-toluic acid with sulfur at 265° C. at a pressure of about 5.5 bars absolute in the presence of nitrogen to obtain 4,4'-stilbenedicarboxylic acid in a 34% yield based on the amount of sulfur used. A known method for synthesizing dimethyl 4,4'-stilbenedicarboxylate comprises the steps of (1) contacting methyl p-formylbenzoate with hydrogen sulfide at 0° C. in the presence of hydrochloric acid to produce a cyclic trisulfide compound and (2) heating the cyclic trisulfide compound at 220° to 260° C. in the presence of copper and diphenyl ether. Dimethyl 4,4'-stilbenedicarboxylate is obtained in an overall yield, based on the methyl p-formylbenzoate starting material, of 37.5%. Both of these methods, like the process of U.S. Pat. No. 2,677,703, produce hydrogen sulfide and, thus, require special equipment to treat the process effluent. These processes require the use of special, dedicated equipment and are not well suited for use in general purpose equipment. Additional methods for preparing stilbene compounds are described by K. B. Becker, Synthesis of Stilbenes, Synthesis, May 1983, 341-368 and U.S. Pat. No. 5,113,010.

reactant | p-toluic acid | CC=1C=CC(=CC1)C(=O)O | C8H8O2
reactant | sulfur | [S] | S
product | 4,4'-stilbenedicarboxylic acid | 34% yield | C1(=CC=C(C=C1)C(=O)O)C=CC1=CC=C(C=C1)C(=O)O | C16H12O4
